US06642253B2
To a stirred solution of 1-amino-6-cyano-3-methylisoquinoline (0.68 g) in 15 mL of tetrahydrofuran at room temperature under a nitrogen atmosphere was added 8.4 mL of 2M borane-methylsulfide complex in tetrahydrofuran and thereafter heated at 60° C. for 50 minutes. The reaction mixture was cooled in an ice bath and 7.5 mL of methanol was added slowly. After 15 minutes 18.8 mL of 1M hydrogen chloride in ether was added. The reaction mixture was allowed to warm to room temperature and stirred for an additional 16 hours. The solid was isolated to afford 0.34 g of 1-amino-6-(aminomethyl)-3-methylisoquinoline hydrogenchloride. The filtrate was purified using column chromatography (silica gel; methanol/ammonia=98/2) to yield an additional 0.15 g of 1-amino-6-(aminomethyl)-3-methylisoquinoline. ESI-MS: 188 (MH+).

reactant | 1-amino-6-cyano-3-methylisoquinoline | 0.68 g | NC1=NC(=CC2=CC(=CC=C12)C#N)C | C11H9N3
reactant | methanol | 7.5 mL | CO | CH4O
reactant | hydrogen chloride | 1M, 18.8 mL | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-amino-6-(aminomethyl)-3-methylisoquinoline hydrogenchloride | 0.34 g | Cl.NC1=NC(=CC2=CC(=CC=C12)CN)C | InChI=1S/C11H13N3.ClH/c1-7-4-9-5-8(6-12)2-3-10(9)11(13)14-7;/h2-5H,6,12H2,1H3,(H2,13,14);1H
